Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / lisinopril
 
Attending: ___.
 
Chief Complaint:
SOB 
 
Major Surgical or Invasive Procedure:
s/p cardiac catheterization 

 
History of Present Illness:
___ with PMHx HTN, HLD and lichen sclerosis presenting with 
several months of progressive DOE, orthopnea and PND. He states 
that he has been short of breath with exertion for several 
months, with a significant decline in his funcitonal capacity 
over the past 2 weeks - he was unable to walk from the East 
campus to the ___ of ___ without stopping to catch his 
breath. He states he has had orthopnea and PND for the past 2 
weeks as well. He also has known AS with ___ 1.2cm, mean 
gradient 37mm Hg. He denies CP or syncope. He also notes a cough 
for the past 2 days that is non productive and associted with 
subjective fever - he states his wife recently had a URI, which 
he thinks he caught from her. Denies hospitalizations in the 
past 90 days. He was seen by his PCP the day of admission and 
had a CXR that showed cardiomegaly - he was subsequently 
transferred to the ED for further management. 
.
In the ED, initial vitals were:
T 96.3 HR 130 BP 175/86 RR 32 O2 Sat 97% 
Labs were notable for Lactate 3.1, WBC 12 (85% PMNs), BNP 615, 
trop <0.01, CRP 23, ESR 51. EKG showed RBBB, R axis and sinus 
tach and was otherwise unchaged from prior. CXR showed mild 
pulmonary edema, no infiltrate. He was given 500cc NS and 
Levofloxacin 750mg. TTE showed LVEF 50%, moderate aortic 
stenosis with ___ 1.2cm, mean gradient 37mm Hg and moderate 
symmetric LVH. 
.
On the floor, initial VS were:
T 100.2 BP 148/96 HR 116 RR 22 O2 Sat 95% RA
He stated his breathing felt markedly improved. He denied 
CP/N/V, lightheadedness or palpitations. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: Hypertension, Hyperlipidemia  
2. CARDIAC HISTORY:  
-CABG: None
-PERCUTANEOUS CORONARY INTERVENTIONS: None 
-PACING/ICD: None 

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
Admission Exam:
T 100.2 BP 148/96 HR 116 RR 22 O2 Sat 95% RA
GENERAL- Obese, NAD 
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Unable to asses JVP ___ body habitus
CARDIAC-  RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS- Bibasilar rales and diffuse rhonchi, no wheezes. No 
increaed WOB. 
ABDOMEN- Soft, NTND. No HSM or tenderness. NABS.   
EXTREMITIES- WWP, no c/c/e. No skin mottling.  
SKIN- Warm, no mottling, no rashes or lesions 
NEURO: A/Ox3, CN II-XII intact, non focal
.
Discharge Exam:
Vitals: 98.2  125/82  78  20  98%RA
Gen: NAD. A&Ox3. Obese body habitus. Laying in bed. Conversive
HEENT: EOMI. NCAT. PERRL.
Neck: Supple. Unable to assess JVD ___aliber
CV: RRR. ___ crescendo decrescendo murmur heard best at RUSB. 
NS1&S2.
Resp; Decreased breath sounds diffusely. No 
rales/crackles/wheeze
GI: Obese with large pannus. S/NT/ND. No organolmegaly
Ext: 1+ pitting edema of BLE
Skin: No rashes, ulcer, or lesions
 
Pertinent Results:
Admission Labs:
___ 11:28AM BLOOD WBC-11.0 RBC-4.89 Hgb-15.2 Hct-43.4 
MCV-89 MCH-31.2 MCHC-35.1* RDW-13.9 Plt ___
___ 11:28AM BLOOD Neuts-80.3* Lymphs-13.4* Monos-4.7 
Eos-1.2 Baso-0.4
___ 12:41PM BLOOD ___ PTT-40.9* ___
___ 11:28AM BLOOD ESR-51*
___ 11:28AM BLOOD UreaN-13 Creat-0.9 Na-136 K-3.8 Cl-96 
HCO3-27 AnGap-17
___ 12:41PM BLOOD ALT-50* AST-49* LD(LDH)-258* AlkPhos-86 
TotBili-0.7
___ 12:41PM BLOOD Calcium-9.1 Phos-2.5* Mg-1.7
___ 11:28AM BLOOD CRP-22.4*
___ 07:39PM BLOOD ___ pO2-144* pCO2-35 pH-7.48* 
calTCO2-27 Base XS-3 Comment-GREEN TOP
___ 11:40PM BLOOD O2 Sat-97 ___ MetHgb-0
___ 12:55PM BLOOD Lactate-3.4*
___ 07:39PM BLOOD Lactate-1.6
.
Discharge Labs:
___ 05:58AM BLOOD WBC-7.8 RBC-4.75 Hgb-14.5 Hct-42.9 MCV-90 
MCH-30.6 MCHC-33.8 RDW-13.1 Plt ___
___ 06:03AM BLOOD Neuts-82.5* Lymphs-11.2* Monos-4.3 
Eos-1.7 Baso-0.3
___ 05:58AM BLOOD ___
___ 05:58AM BLOOD Glucose-124* UreaN-20 Creat-0.9 Na-138 
K-3.9 Cl-97 HCO3-31 AnGap-14
___ 05:58AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.1
.
Pertinent Labs:
___ 11:28AM BLOOD ESR-51*
___ 06:08AM BLOOD ESR-65*
___ 11:28AM BLOOD CRP-22.4*
___ 06:08AM BLOOD CRP-76.9*
.
Studies:
___ TTE:
The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). Right 
ventricular chamber size is normal. The aortic valve is not well 
seen. There is moderate aortic valve stenosis (valve area 
1.0-1.2cm2). No aortic regurgitation is seen. The mitral valve 
leaflets are not well seen. Trivial mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Moderate aortic valve 
stenosis. Mild symmetric left ventricular hypertrophy with 
normal cavity size and low normal global systolic function. 
.
___ EKG:
Sinus tachycardia. Right bundle-branch block. Compared to the 
previous
tracing no change.
___
___
.
___ CXR PA/Lat:
FINDINGS:  No previous images.  There is hyperexpansion of the 
lungs with
flattening of the hemidiaphragms consistent with the clinical 
diagnosis of
chronic pulmonary disease.  Enlargement of the cardiac 
silhouette is seen. 
Mild prominence of interstitial markings could reflect elevated 
pulmonary
venous pressure, chronic lung disease, or both.
 
No evidence of acute focal pneumonia.
.
___ CTA:
1.  There is no pulmonary embolism or acute aortic syndrome.
2.  Main pulmonary artery 3.5 cm across, suggests pulmonary 
artery
hypertension.
3.  Aortic valve is heavily calcified, could be hemodynamically 
significant.  
4.  Right pleural effusion and adjacent atelectasis is very 
mild.
5.  A cluster of right hilar lymph nodes measuring 24 x 6 mm is 
marginates the right upper lobe bronchus and should be followed 
up with a chest CT in three months.
6.  Mild splenomegaly measuring 15.2 cm
.
___ TTE w/contrasted saline:
No atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal.
.
___ Stress portion of MIBI study:
This ___ yo with a PMH of HTN, HLD, and moderate AS
(valve area 1.2 cm2) was referred to the lab from the inpatient 
cardiac
service for evaluation of several months of exertional dyspnea
?CHF/dCHF. The patient was brought to the lab after IV diuresis 
and
negative cardiac enzymes. He exercised for 9 minutes on a 
Gervino
protocol and stopped for fatigue and shortness of breath. The 
estimated
peak MET capacity was 4.8 which represents a poor exercise 
tolerance for
his age. The patient denied any arm, neck, back, or chest 
discomfort
throughout the procedure. At peak exercise he did note 
progressive
dyspnea but felt that it was appropriate for the workload 
achieved and
not nearly as severe as his symptoms were prior to this hospital
admission. There were no significant ST segment changes from 
baseline
seen during exercise or recovery. The rhythm was sinus with 
occasional
isolated VPBs. Appropriate HR response to exercise. Blunted BP 
response
to exercise.
IMPRESSION: Atypical/Mild progressive dyspnea in the absence of
significant ST segment changes from baseline. Poor exercise 
tolerance.
Blunted BP response to exercise. Nuclear report sent separately.
.
___ Nuclear portion of MIBI study:
1.  Fixed inferior wall defect.
2.  No reversible perfusion defects.  
3.  Diffusely hypokinetic left ventricle with the hypokinesis 
most pronounced in
the basal portion of the inferior wall. 
4.  Dilated left ventricle.  
5.  Decreased ejection fraction of 30%.  
.
___ R and L heart catheterization:
1.Single vessel CAD with occluded proximal RCA (CTO) consistent
with the nuclear perfusion study findings
2.Severe aortic valve stenosis with mean gradient 55 mmHg by
invasive assessment and calculated ___ of 0.7 cm2.
3.Moderately elevated left- and right-sided filling pressures,
moderate pulmonary arterial hypertension
4.Anomalous LCX originating from a large RI trunk
5.Reviewed with Drs. ___. Plans for OHS with AVR 
and
___  
 
 
Brief Hospital Course:
___ y/o man with PMHx of HTN, HLD, and no known CAD that 
presented with several week h/o of worsening DOE. Initially 
thought to represent ___ exacerbation, as he was volume 
overloaded and had SBP in 170's with preserved EF on initial 
TTE. Diuresed to dry weight with resolution of symptoms. 
Underwent further screening tests, including stress MIBI and 
repeat TTE. Reevaluation of heart function with MIBI 
demonstrated depressed EF (30%). Eventually underwent r. and l. 
heart catheterization which demonstrated single vessel CAD and 
severe AS. Evaluated by cardiac surg for aortic valve 
replacement vs. repair and potential SVG to RCA. Rather than 
stay in-house prior to surgery, he opted to go home and discuss 
options with family.     
.
#Severe AS: He presented with worsening DOE that was initially 
thought related to ___ rather than underlying valvular disease, 
as his EF was preserved on intitial TTE. Same study documented 
only moderate AS. Eventually underwent r. and l. heart 
catheterization which demonstrated an ___ of 0.77cm. As pt has 
symptoms of heart failure and reduced EF (see below), he is a 
candidate for AVR. Of note, no history of angina or syncope. Pt 
was amenable to valve replacement, but did not wish to have 
work-up done as inpatient. He prefers to go home and talk over 
with his family. Started on CHF meds (see below). Avoided 
overdiuresis given his pre-load dependence.
.
#Acute sCHF exacerbation: Pt came in with worsening DOE and 
lower extremity swelling. He had difficulty making it from 
clinic to the hospital ___ symptoms. CTA was performed to rule 
out PE. No PE was noted. He was diuresed with IV lasix, and DOE 
resolved. It is unclear whether initial presentation was ___ 
___ vs ___ as initial echo documented low normal LVEF and mild 
LVH. The images were noted to be suboptimal. Had stress MIBI 
with calulated EF of 30%. Despite discordant echo results 
showing preserved EF, it appeared that depressed EF (~30%) on 
stress MIBI was more compatible with clinical picture. Started 
on ___ (cough with ACE-I), toprol xL and maintenance diuretic 
prior to discharge.
.
#CAD: No known cardiac disease prior to admission. Pt with total 
occlusion of proximal RCA with good collateral flow. Likely a 
candidate for bypass surgery. No h/o angina or anginal 
equivalent. Started on atorvastatin and toprol xL. 
.
# Elevated ESR/CRP: Initial ESR/CRP elevated. Thought to be ___ 
recent upper respiratory infection.  
.
# Elevated Lactate: Resolved on admission. No localizing s/sx 
other than cough and SOB. Possibly related to mild hypoxia with 
URI. 
.
# Fever/Leukocytosis: Initially presented with low grade fever 
and leukocytosis, which resolved during admission. Likely 
related to viral URI. Blood and urine cx negative
.
Chronic Issues:
#HTN: Pt was hypertensive on admission, which normalized with 
amlodipine. While his amlodipine was continued at discharge, he 
will likely benefit from stopping this med, as he has newly 
diagnosed sCHF.
.
Transitional Issues:
#Will need repeat CT in 3 months to evaluate r. hilar 
lymphadenopathy
#Will need lytes check in 1 week after starting ___ 
#Consider d/c'ing amlodipine in setting of new ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Fluoxetine 40 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
5. Hydrocortisone Cream 2.5% 1 Appl TP DAILY 
6. econazole *NF* 1 % Topical daily 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Fluoxetine 40 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
6. econazole *NF* 1 % Topical daily 
7. Hydrocortisone Cream 2.5% 1 Appl TP DAILY 
8. Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
9. Furosemide 20 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
10. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
11. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0
12. Outpatient Lab Work
Please check a chem 10 on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Systolic Congestive Heart Failure
Coronary Artery Disease
Aortic Stenosis (Mean Gradient 55mgHg, ___ 0.7cm2)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

It was a pleasure caring for you at ___ 
___. You were admitted with shortness of breath. We 
gave you intravenous diuretics and your breathing improved. You 
then had a nulcear stress test, which showed decreased pump 
function of your heart and findings concerning for a coronary 
artery blockage. You then went for a cardiac catheterization for 
further investigation which showed a complete blockage of one of 
your arteries (right coronary artery). The catheterization also 
showed that you had severe stenosis of your aortic valve. You 
were evaluated by the cardiac surgeons for consideration of 
valve replacement and coronary artery bypass. You will follow up 
with the cardiac surgeons as an outpatient. 

You will also follow up with a cardiologist as an outpatient. 
Your new cardiolgist is Dr. ___ who you will meet her on 
___.

You will need to weigh yourself everyday. If you notice that 
your weight is up more than 3 pounds in one day please call your 
primary care doctor for further instruction. 

You will need to have your blood work checked the day of your 
appointment on ___.

Please note the following changes to your medications:
START Lasix 20mg daily
START Losartan 25mg daily
START Metoprolol Succinate 12.5mg daily
START Atorvastatin 40mg daily
 
Followup Instructions:
___